US07094908B2
Allyl 2-(4,7-difluoro-1,3-dioxo-1,3-dihydro-isoindol-2-ylmethyl)-3-oxo-butyrate was prepared (86 mg, 23%) in the same manner as described in the above Example 6 (40) from allyl 3-(4,7-difluoro-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-2-(2-methyl-[1,3]dioxolan-2-yl)propionate (0.35 g, 0.92 mmol) and p-toluenesulfonic acid monohydrate (40 mg), and the obtained product was identified with the following NMR data.

reactant | allyl 3-(4,7-difluoro-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-2-(2-methyl-[1,3]dioxolan-2-yl)propionate | 0.92 mmol, 0.35 g | FC1=C2C(N(C(C2=C(C=C1)F)=O)CC(C(=O)OCC=C)C1(OCCO1)C)=O | C18H17F2NO6
reactant | p-toluenesulfonic acid monohydrate | 40 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | Allyl 2-(4,7-difluoro-1,3-dioxo-1,3-dihydro-isoindol-2-ylmethyl)-3-oxo-butyrate | FC1=C2C(N(C(C2=C(C=C1)F)=O)CC(C(=O)OCC=C)C(C)=O)=O | C16H13F2NO5
